US07893085B2
3-Hydroxy-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a cooled (5° C.) stirred solution of ethyl 4-chloro-nicotinate (1.55 g, 8.4 mmol) and mercapto-acetic acid ethyl ester (2.6 ml, 23.4 mmol) in anhydrous DMF (30 ml), under an argon atmosphere, was added sodium hydride (21.7 mmol; 60% dispersion in oil, 868 mg) in portions over 20 minutes. Stirring was continued at 5° C. for 10 minutes, followed by 1.5 hours at room temperature. The reaction mixture was then quenched by the addition of water (5 ml), acidified by the addition of acetic acid (1 ml), and subsequently concentrated to provide a residue. The residue was partitioned between ethyl acetate (150 ml) and water (100 ml). The layers were separated and aqueous phase was extracted with DCM (100 ml). The combined organic phase was dried over sodium sulphate, filtered and evaporated to give a solid. The solid was triturated with diethyl ether:pentane (1:1, 15 ml) to afford the title compound as a yellow solid (1.5 g, 81%). LCMS (method B): RT=2.21 min, M+H+=224.

reactant | ethyl 4-chloro-nicotinate | 8.4 mmol, 1.55 g | ClC1=CC=NC=C1C(=O)OCC | C8H8ClNO2
reactant | mercapto-acetic acid ethyl ester | 23.4 mmol, 2.6 ml | C(C)OC(CS)=O | C4H8O2S
reactant | sodium hydride | 21.7 mmol, 868 mg | [H-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Hydroxy-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.5 g, 81% | C(C)OC(=O)C1=C(C=2C=NC=CC2S1)O | C10H9NO3S
